### PR TITLE
feat: make LLVM eDSL work without reduce - one instruction case

### PR DESCRIPTION
**Pull request by tobiasgrosser**
The use of reduce in the meta programming framework has made the frontend pretty fragile. We build now step-by-step the simp lemmas needed to simplify the eDSL away such that reduce can eventually be dropped.

This change is needed to enable the lean 4.9.0 update.

Co-authored-by: Alex Keizer <alex@keizer.dev>
Co-authored-by: Siddharth Bhat <siddu.druid@gmail.com>

### CODE REVIEW

File: SSA/Core/ErasedContext.lean [hunk 1]
```diff
@@ -140,6 +140,9 @@ def castCtxt {Γ : Ctxt Op} (h_eq : Γ = Δ) : Γ.Var ty → Δ.Var ty
 @[simp] lemma castCtxt_castCtxt (v : Var Γ t) (h₁ : Γ = Δ) (h₂ : Δ = Ξ) :
     (v.castCtxt h₁).castCtxt h₂ = v.castCtxt (by simp [*]) := by subst h₁ h₂; simp
 
+@[simp]
+theorem toMap_last {Γ : Ctxt Ty2} {t : Ty2} : (Ctxt.Var.last Γ t).toMap = Ctxt.Var.last (Γ.map f) (f t) := rfl
```
Comment (bollu) [inline SSA/Core/ErasedContext.lean:144]: Use the subscript: 
```suggestion
theorem toMap_last {Γ : Ctxt Ty₂} {t : Ty₂} : (Ctxt.Var.last Γ t).toMap = Ctxt.Var.last (Γ.map f) (f t) := rfl
```

Not even sure why we need the `₂`, I would suggest dropping it

File: SSA/Core/Framework.lean [hunk 2]
```diff
@@ -1357,6 +1357,20 @@ def Lets.changeDialect : Lets d Γ_in eff Γ_out → Lets d' (f.mapTy <$> Γ_in)
   | nil => nil
   | lete body e => lete (changeDialect body) (e.changeDialect f)
 
+section Lemmas
+
+@[simp] lemma Com.changeDialect_ret (f : DialectMorphism d d') (v : Var Γ t):
```
Comment (bollu) [inline SSA/Core/Framework.lean:1362]:
```suggestion
@[simp] lemma Com.changeDialect_ret (f : DialectMorphism d d') (v : Var Γ t) :
```

File: SSA/Core/Framework.lean [hunk 3]
```diff
@@ -1357,6 +1357,20 @@ def Lets.changeDialect : Lets d Γ_in eff Γ_out → Lets d' (f.mapTy <$> Γ_in)
...
+    Com.changeDialect f (Com.ret v : Com d Γ eff t) = Com.ret v.toMap := by
+  cases eff <;> rfl
+
+@[simp] lemma Com.changeDialect_lete (f : DialectMorphism d d')
+    (e : Expr d Γ eff t) (body : Com d _ eff u) :
+    Com.changeDialect f (Com.lete e body)
+      = Com.lete (e.changeDialect f) (body.changeDialect f) := by
```
Comment (bollu) [inline SSA/Core/Framework.lean:1369]:
```suggestion
    (Com.lete e body).changeDialect f = Com.lete (e.changeDialect f) (body.changeDialect f) := by
```

**Review by bollu — COMMENTED** [review]
Conceptually, LGTM. Would appreciate it if the typesetting were improved as outlined.
